US07585885B2
5-Nitro-N,N-dipropyl-isophthalamic acid methyl ester
Dissolve commercially available monomethyl 5-nitroisophthalate (3.000 g, 14.07 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (3.238 g, 16.89 mmol), 1-hydroxybenzotriazole hydrate (2.587 g, 16.89 mmol) and 4-dimethylaminopyridine (0.172 g, 1.407 mmol) and triethylamine (5.885 mL, 42.22 mmol) in dichloromethane (309 mL) and stir the mixture at room temperature for 0.5 h. Add dipropylamine (2.026 mL, 14.78 mmol) and triethylamine (5.885 mL, 42.22 mmol) and stir the mixture overnight. Concentrate and redissolve the residue in ethyl acetate and wash with two portions each of 5% aqueous potassium hydrogen sulfate solution, 5% aqueous sodium bicarbonate solution, saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give the title compound (3.885 g, 90%).

reactant | monomethyl 5-nitroisophthalate | 14.07 mmol, 3.000 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OC)C1)C(=O)[O-]
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 16.89 mmol, 3.238 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 16.89 mmol, 2.587 g | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 42.22 mmol, 5.885 mL | C(C)N(CC)CC | C6H15N
reactant | dipropylamine | 14.78 mmol, 2.026 mL | C(CC)NCCC | C6H15N
reactant | triethylamine | 42.22 mmol, 5.885 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 1.407 mmol, 0.172 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 309 mL | ClCCl | CH2Cl2
product | 5-Nitro-N,N-dipropyl-isophthalamic acid methyl ester | 3.885 g, 90% | COC(C1=CC(C(=O)N(CCC)CCC)=CC(=C1)[N+](=O)[O-])=O | C15H20N2O5
